US08420629B2
Step 8. (3-isoxazol-3-ylcyclobutylidene)acetonitrile
Sodium hydride (60% dispersion in mineral oil, 75 mg, 1.88 mmol) was added at once to a solution of diethyl cyanomethylphosphonate (0.33 mL, 2.1 mmol) in tetrahydrofuran (8 mL). After stirring for 5 minutes, a solution of 3-isoxazol-3-ylcyclobutanone (258 mg, 1.88 mmol) in tetrahydrofuran (20 mL) was added. After 2 hours reaction time, the reaction mixture was partitioned between ethyl acetate and brine and the layers separated. The aqueous layer was extracted with two further portions of ethyl acetate and the combined extracts were dried over sodium sulfate, decanted and concentrated. The residue was then azeotroped with toluene and the product was used without further purification in Step 9.

reactant | Sodium hydride | 1.88 mmol, 75 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 2.1 mmol, 0.33 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 3-isoxazol-3-ylcyclobutanone | 1.88 mmol, 258 mg | O1N=C(C=C1)C1CC(C1)=O | C7H7NO2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (3-isoxazol-3-ylcyclobutylidene)acetonitrile | O1N=C(C=C1)C1CC(C1)=CC#N | C9H8N2O
